US08133882B2
To a 6 ml DMSO suspension of 200 mg of 60% sodium hydride was added 1.1 g of trimethylsulfoxonium iodide, followed by stirring for 30 minutes. To the reaction mixture was added 242 mg of ethyl (2E)-3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acrylate, followed by stirring at room temperature for 1 hour and at 60° C. for 1 hour. To the reaction mixture was added water, followed by extraction with diethyl ether. The organic layer was washed with aqueous saturated sodium chloride. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure. The resulting residue was purified by silica gel column chromatography to obtain 55 mg of ethyl 2-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]cyclopropanecarboxylate.

reactant | DMSO | 6 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 1.1 g | [I-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]acrylate | 242 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)/C=C/C(=O)OCC)=O)F | C25H31FN2O3
solvent | water | O | H2O
product | ethyl 2-[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]cyclopropanecarboxylate | 55 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C1C(C1)C(=O)OCC)=O)F | C26H33FN2O3
